US06423704B1
Treat a stirred solution of pyrazole (0.22 g, 3.18 mmol, Aldrich Chemical Company) and dimethylformamide (5 mL) at room temperature portionwise with sodium hydride (0.15 g, 3.18 mmol). After 30 minutes, slowly add a solution of 1-(t-butoxycarbonyl)-4-(1-(2-methanesulfonyloxyethyl)-1H-benzimidazol-2-yl)-[1,4]diazepane (0.93 g, 2.12 mmol, Preparation 28) and dimethylformamide, and then heat at 75° C. for 12 hours. Cool, add dichloromethane (100 mL) and wash with water (2×20 mL). Dry (Na2SO4) the organic phase, filter and concentrate. Dry the residue under high vacuum at 100° C. to remove residual dimethylformamide. Purify the residue by radial chromatography (silica gel, ethyl acetate:hexane, 1:1) to afford 4-[1-(2-pyrazol-1-yl-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester (0.71 g), Rf=0.44 (silica gel, ethyl acetate).

reactant | pyrazole | 3.18 mmol, 0.22 g | N1N=CC=C1 | C3H4N2
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
reactant | sodium hydride | 3.18 mmol, 0.15 g | [H-].[Na+]
reactant | 1-(t-butoxycarbonyl)-4-(1-(2-methanesulfonyloxyethyl)-1H-benzimidazol-2-yl)-[1,4]diazepane | 2.12 mmol, 0.93 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCOS(=O)(=O)C)C=CC=C2 | C20H30N4O5S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-[1-(2-pyrazol-1-yl-ethyl)-1H-benzoimidazol-2-yl]-[1,4]diazepane-1-carboxylic acid tert-butyl ester | 0.71 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCN1N=CC=C1)C=CC=C2 | C22H30N6O2
